* Verify ngspice defaults by measuring known circuits
* Test 1: BJT IS- measure Vbe at known Ib to back-calculate IS
* Test 2: MOSFET VTO/KP- measure Id at known Vgs to verify threshold
* Test 3: Diode IS- measure Vd at known Id

* BJT with default model
.model DEFNPN NPN()
Vcc1 10 0 5
Rc1 10 11 10k
Rb1 10 12 100k
Q1 11 12 0 DEFNPN

* MOSFET with default model, W/L = 1
.model DEFNMOS NMOS()
Vd2 20 0 5
Vg2 21 0 5
M1 20 21 0 0 DEFNMOS W=1e-4 L=1e-4

* Diode with default model
.model DEFD D()
Vs3 30 0 1
Rs3 30 31 1k
D1 31 0 DEFD

.op

.control
op
set wr_singlescale
set wr_vecnames
wrdata defaults_probe.txt v(11) v(12) i(Vcc1) v(20) i(Vd2) v(31) i(Vs3)
quit
.endc
.end
